US08372866B2
2-[(3-(imidazol-1-yl)-phenyl]-3-hydroxy-6-[(1-iminoethyl)amino]-4H-1-benzopyran-4-one dihydrochloride
Prepared analogously to Example 5, starting from 2-[(3-(imidazol-1-yl)-phenyl]-3-benzyloxy-6-[(1-iminoethyl)amino]-4H-1-benzopyran-4-one dihydrochloride. Yield: 90%; m.p.: 281.0-281.5° C. TLC (80/20/2 Chloroform/Methanol/Ammonia) Rf: 0.32; Elem. anal.: C20H16N4O3.2HCl, Theory: C, 55.44; H, 4.19; N, 12.93. Found: C, 53.05; H, 4.34; N, 12.18. 1H-NMR (d6-DMSO): 11.83 (s broad, 1H), 10.30 (s, 1H), 9.75 (m, 2H), 8.73 (s broad, 1H), 8.46 (m, 2H), 8.38 (m, 1H), 8.07-7.75 (m, 6H), 2.41 (s, 3H).

reactant | (3-(imidazol-1-yl)-phenyl]-3-benzyloxy-6-[(1-iminoethyl)amino]-4H-1-benzopyran-4-one dihydrochloride | Cl.Cl.N1(C=NC=C1)C=1C=C(C=CC1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)NC(C)=N
reactant | Chloroform Methanol Ammonia | C(Cl)(Cl)Cl.CO.N
product | (3-(imidazol-1-yl)-phenyl]-3-hydroxy-6-[(1-iminoethyl)amino]-4H-1-benzopyran-4-one dihydrochloride | Yield: 90% | Cl.Cl.N1(C=NC=C1)C=1C=C(C=CC1)C=1OC2=C(C(C1O)=O)C=C(C=C2)NC(C)=N | InChI=1S/C20H16N4O3.2ClH/c1-12(21)23-14-5-6-17-16(10-14)18(25)19(26)20(27-17)13-3-2-4-15(9-13)24-8-7-22-11-24;;/h2-11,26H,1H3,(H2,21,23);2*1H
